US07888338B2
Preparation of 2-(4-methyl-4-trimethylsilanyloxy-hexyl)-spiro[4.5]decan-7-one (30′)
To a solution of 2-(4-hydroxy-4-methylpentyl)-spiro[4.5]decan-7-one (29′) (100 mg, 0.396 mmol) in dry THF (2 mL) is added 1-(trimethylsilyl)imidazole (0.292 mL, 1.98 mmol). The reaction mixture is stirred at room temperature for 4 hours and the solvent removed in vacuo. The resulting residue is purified over silica (petroleum ether/EtOAc, 95:5) to afford the desired product which is used directly for the next reaction step.

reactant | 2-(4-hydroxy-4-methylpentyl)-spiro[4.5]decan-7-one | OC(CCCC1CC2(CC1)CC(CCC2)=O)(C)C | C16H28O2
reactant | 1-(trimethylsilyl)imidazole | 1.98 mmol, 0.292 mL | C[Si](N1C=NC=C1)(C)C | C6H12N2Si
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(4-methyl-4-trimethylsilanyloxy-hexyl)-spiro[4.5]decan-7-one | CC(CCCC1CC2(CC1)CC(CCC2)=O)(CC)O[Si](C)(C)C | C20H38O2Si
